US07514419B2
A solution of sodium nitrite (155 mg, 2.24 mmol) in water (1 mL) was added to a suspension of 3,5-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)-aniline (J. Med. Chem. 38:695 (1995), 640 mg, 2.24 mmol) in ethanol (3 mL) and concentrated hydrochloric acid (12 M, 1.12 mL, 13.44 mmol) at 0° C. The yellow heterogeneous solution slowly turns to an orange clear solution. After stirring at 0° C. for 30 minutes, a solution of tin dichloride (1.53 g, 8.06 mmol) in hydrochloric acid (12 M, 1.3 mL, 15.68 mmol) was added. The orange solution turned green and a white precipitate formed. Ethanol (3 mL) was added to dissolve most of the precipitate and the heterogeneous reaction mixture was stirred at 0° C. After 2 hours, water was added and the precipitate collected by filtration. The sticky solid was dissolved in ethyl acetate and washed with water, 1 N sodium hydroxide then brine. The organics were dried over sodium sulfate, concentrated under reduced pressure and the residue was purified by column chromatography (silica gel, dichloromethane/methanol 95/5 to 90/10) to give 3,5-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)-phenyl hydrazine (305 mg, 45%): 1H NMR (300 MHz, CDCl3) δ 6.77 (d, J=3.0 Hz, 1H), 6.67 (d, J=9.0 Hz, 1 H) 6.58 (s, 2H), 6.37 (dd, J=9.0, 3.0 Hz, 1H), 3.77 (s, 3H), 3.27 (heptuplet, J=6.9 Hz, 1H), 2.09 (s, 3H), 1.18 (d, J=6.9 Hz, 6H); TLC conditions: Merck silica gel, 250 microns; Mobile phase=dichloromethane-methanol (9:1), Rf=0.6.

reactant | sodium nitrite | 2.24 mmol, 155 mg | N(=O)[O-].[Na+]
reactant | 3,5-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)-aniline | 2.24 mmol, 640 mg | CC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C18H23NO2
reactant | hydrochloric acid | 13.44 mmol, 12 M, 1.12 mL | Cl | ClH
reactant | tin dichloride | 8.06 mmol, 1.53 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 15.68 mmol, 12 M, 1.3 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | Ethanol | 3 mL | C(C)O | C2H6O
product | 3,5-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)-phenyl hydrazine | 305 mg, 45% | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)NN | C18H24N2O2
